US07427390B2
150 mg (0.36 mmol) of N-(2-diethylamino-ethyl)-4-(bismethanesulfonylamino)-2-methoxy-benzamide is dissolved in 10 ml of tetrahydrofuran and mixed with 1 ml of 1N potassium hydroxide solution. It is stirred for 2 hours at room temperature. Then, the tetrahydrofuran is drawn off in a vacuum, mixed with 25 ml of saturated sodium bicarbonate solution and shaken out three times with 25 ml each of methylene chloride. The collected organic phase is dried, filtered and concentrated by evaporation, and 114 mg (91.9% of theory) of N-(2-diethylamino-ethyl)-4-(methanesulfonylamino)-2-methoxy-benzamide is obtained.

reactant | N-(2-diethylamino-ethyl)-4-(bismethanesulfonylamino)-2-methoxy-benzamide | 0.36 mmol, 150 mg | C(C)N(CCNC(C1=C(C=C(C=C1)N(S(=O)(=O)C)S(=O)(=O)C)OC)=O)CC | C16H27N3O6S2
reactant | potassium hydroxide | 1N, 1 ml | [OH-].[K+]
reactant | sodium bicarbonate | 25 ml | C([O-])(O)=O.[Na+]
reactant | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | N-(2-diethylamino-ethyl)-4-(methanesulfonylamino)-2-methoxy-benzamide | 114 mg, 91.9% | C(C)N(CCNC(C1=C(C=C(C=C1)NS(=O)(=O)C)OC)=O)CC | C15H25N3O4S
